US06734191B2
AMD9817: Preparation of (1H-Benzimidazol-2-ylmethyl)-(2,3-dihydro-benzofuran-7-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (hydrobromide salt)
Following General Procedure B: To a solution of 2,3-dihydrobenzofuran-7-carboxaldehyde (53.6 mg, 0.362 mmol) and [1-(tert-butoxycarbonyl)-(1H-benzimidazol-2-ylmethyl)]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (136 mg, 0.361 mmol) CH2Cl2 (5 mL) was added NaBH(OAc)3 (112 mg, 0.528 mmol) and the mixture stirred overnight. Purification of the crude product by radial chromatography on silica gel (1 mm TLC plate, 125:1:1 CH2Cl2: CH3OH: NH4OH) to gave the desired freebase (48 mg, 33%).

reactant | 2,3-dihydrobenzofuran-7-carboxaldehyde | 0.362 mmol, 53.6 mg | O1CCC2=C1C(=CC=C2)C=O | C9H8O2
reactant | [1-(tert-butoxycarbonyl)-(1H-benzimidazol-2-ylmethyl)]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 0.361 mmol, 5 mL, 136 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CNC2CCCC=1C=CC=NC21 | C22H26N4O2
reactant | NaBH(OAc)3 | 0.528 mmol, 112 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | (1H-Benzimidazol-2-ylmethyl)-(2,3-dihydro-benzofuran-7-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=CC=1CCOC12 | C26H26N4O
